US07199120B2
7-Chloro-2-(2-furyl)-pyrazolo[1,5-a]pyridine (0.23 g, 1.05 mmol) was dissolved in tetrahydrofuran (5 mL) and cooled to 0° C. N-Bromosuccinimide (0.19 g, 1.05 mmol) was added. The reaction was stirred for 1 hour. The reaction solution was poured into equal volumes (10 mL) of saturated aqueous ammonium chloride and ether. The ether layer was collected and the solvent removed in vacuo to give the crude product The product was purified by silica gel chromatography (6:1 hexane:ethyl acetate) to give 0.3 g (96%) of 3-bromo-7-chloro-2-(2-furyl)pyrazolo[1,5-a]pyridine as a solid. 1H NMR (CDCl3) δ 7.63 (d, 1H), 7.51 (d, 1H), 7.29 (d, 1H), 7.21 (dd, 1H), 6.98 (d, 1H), 6.58 (dd, 1H); MS m/z 298 (M+1).

reactant | 7-Chloro-2-(2-furyl)-pyrazolo[1,5-a]pyridine | 1.05 mmol, 0.23 g | ClC1=CC=CC=2N1N=C(C2)C=2OC=CC2 | C11H7ClN2O
reactant | N-Bromosuccinimide | 1.05 mmol, 0.19 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | ammonium chloride | 10 mL | [Cl-].[NH4+]
reactant | ether | CCOCC | C4H10O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 3-bromo-7-chloro-2-(2-furyl)pyrazolo[1,5-a]pyridine | 0.3 g, 96% | BrC=1C(=NN2C1C=CC=C2Cl)C=2OC=CC2 | C11H6BrClN2O
